US05294623
Ethyl 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarboxylate
1.43 g of 1-bis(4-fluorophenyl)methoxy-2-chloroethane and 1.00 g of ethyl isonipecotate were added to 10 ml of methyl isobutyl ketone, and the reaction mixture was then heated under reflux for 5 hours together with 2.0 g of sodium carbonate and 10 mg of potassium iodide. At the end of this time, the mixture was filtered and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography. Elution with a 3:1 by volume mixture of hexane and ethyl acetate afforded 1.45 g (yield 71%) of the title compound as an oily substance.

reactant | 1-bis(4-fluorophenyl)methoxy-2-chloroethane | 1.43 g | FC1=CC=C(C=C1)C(OCCCl)C1=CC=C(C=C1)F | C15H13ClF2O
reactant | ethyl isonipecotate | 1.00 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | sodium carbonate | 2.0 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | potassium iodide | 10 mg | [I-].[K+]
solvent | methyl isobutyl ketone | 10 ml | C(C(C)C)C(=O)C | C6H12O
product | Ethyl 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarboxylate | 1.45 g, yield 71% | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)C(=O)OCC)C1=CC=C(C=C1)F | C23H27F2NO3
